US07449475B2
Methyl 2-hydroxy-4-(trityloxy)benzoate
To a solution of methyl 2,4-dihydroxybenzoate (388 mg, 2.0 mmol) in dimethylformamide (5 mL) was added triethylamine, Et3N, (0.556 mL, 4.0 mmol) followed by trityl chloride (557.5 mg, 2.0 mmol) and 4-dimethylaminopyridine (DMAP) (20 mg). The reaction mixture was kept on stirring at room temperature overnight, poured into a mixture of ice-water, the white precipitate was collected by filtration. This precipitate was subjected to silica gel flash chromatography (0-5% ethyl acetate in petroleum ether) to give the subtitled compound (350 mg).

reactant | methyl 2,4-dihydroxybenzoate | 2.0 mmol, 388 mg | OC1=C(C(=O)OC)C=CC(=C1)O | C8H8O4
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | Et3N | 4.0 mmol, 0.556 mL | CCN(CC)CC | C6H15N
reactant | trityl chloride | 2.0 mmol, 557.5 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
catalyst | 4-dimethylaminopyridine | 20 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | Methyl 2-hydroxy-4-(trityloxy)benzoate | 350 mg | OC1=C(C(=O)OC)C=CC(=C1)OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H22O4
